US08183281B2
b.) 3-(2-Ethoxy-3,4-dioxocyclobut-1-enylamino)-2-hydroxy-N,N-dimethyl-benzamide
44 g of 3-amino-2-hydroxy-N,N-dimethyl-benzamide are dissolved in 880 ml of EtOH. 46 g of 3,4-diethoxy-3-cyclobuten-1,2-dione and 4.4 g of K2CO3 are added and the reaction mixture obtained is stirred overnight at rt. Solvent is evaporated. A residue obtained is purified by column chromatography over 500 g of silica using CH2Cl2/MeOH 98/2 as eluent. The product-containing fractions are combined and solvent is evaporated. A residue obtained is suspended in 1 l of MeOH and filtered. This process is repeated a further 3 times. The title compound is obtained.

reactant | 3-amino-2-hydroxy-N,N-dimethyl-benzamide | 44 g | NC=1C(=C(C(=O)N(C)C)C=CC1)O | C9H12N2O2
reactant | 3,4-diethoxy-3-cyclobuten-1,2-dione | 46 g | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
reactant | K2CO3 | 4.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOH | 880 ml | CCO | C2H6O
solvent | MeOH | 1 l | CO | CH4O
product | 3-(2-Ethoxy-3,4-dioxocyclobut-1-enylamino)-2-hydroxy-N,N-dimethyl-benzamide | C(C)OC1=C(C(C1=O)=O)NC=1C(=C(C(=O)N(C)C)C=CC1)O | C15H16N2O5
